US09428457B2
(2S,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxymethyl-4-(2-methoxy-acetylamino)-2-methylpentanoic Acid
Methoxy-acetyl chloride (7 mg, 30 μmol) was combined with a 0.4 mL solution of 0.075 M of (2S,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxymethyl-2-methyl-pentanoic acid (136 mg, 30 μmol) in DCM and Et3N (110 μL). The resulting mixture was stirred for 10 minutes. The solvent was evaporated and the residue was dissolved in AcOH and purified by preparative HPLC to yield the title compound (2.1 mg). MS m/z [M+H]+ calc'd for C22H26ClNO5, 420.15. found 420.2.

reactant | Methoxy-acetyl chloride | 30 μmol, 7 mg | COCC(=O)Cl | C3H5ClO2
reactant | (2S,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxymethyl-2-methyl-pentanoic acid | 30 μmol, 0.075 M, 136 mg | N[C@@H](C[C@@](C(=O)O)(C)CO)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl | C19H22ClNO3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Et3N | 110 μL | CCN(CC)CC | C6H15N
product | (2S,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxymethyl-4-(2-methoxy-acetylamino)-2-methylpentanoic Acid | 2.1 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(COC)=O | C22H26ClNO5
